US07041681B2
2-(5-Phenyl-oxazol-2-yl)-piperidine
To a solution of 0.56 g (1.5 mmol) of 2-(5-Phenyl-oxazol-2-yl)-piperidine-1-carboxylic acid benzyl ester in 5 mL of chloroform, cooled in an ice bath under argon, was added 5 mL of trimethylsilyliodide. The mixture was allowed to slowly warm to room temperature and stir for five hours. To the reaction mixture was added 10 mL of methanol and the resulting mixture was allowed to stir at room temperature for 0.5 hour. The resulting mixture was partitioned between diethyl ether and 2N hydrochloric acid. The aqueous layer was separated, basified with 2N sodium hydroxide and extracted twice with diethyl ether. The combined ethyl ether extracts were dried over magnesium sulfate and concentrated to 0.20 g (0.88 mmol, 58% yield) of a yellow oil. The oil was 98% pure by LC analysis.

reactant | 2-(5-Phenyl-oxazol-2-yl)-piperidine-1-carboxylic acid benzyl ester | 1.5 mmol, 0.56 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)C=1OC(=CN1)C1=CC=CC=C1 | C22H22N2O3
reactant | trimethylsilyliodide | 5 mL | C[Si](C)(C)I | C3H9ISi
reactant | methanol | 10 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-Phenyl-oxazol-2-yl)-piperidine | 0.88 mmol, 0.20 g, 58% yield | C1(=CC=CC=C1)C1=CN=C(O1)C1NCCCC1 | C14H16N2O
